US09403827B2
Step 4.8: (Z)-3-Dimethylamino-2-isocyano acrylic acid ethyl ester
A solution of ethyl-2-isocyanoacetate (10.3 g, 91 mmol) in ethanol (100 ml) was cooled down to 0° C. 1,1-dimethoxy-N,N-dimethyl methanamine (26.6 ml, 200 mmol) was added and the reaction mixture was then allowed to reach RT and stirred for 24 h. The mixture was concentrated and the crude material was purified by flash chromatography (heptane/EtOAc, 100:0 to 40:60) to afford 11 g (64.7 mmol, 71.1% yield) of the title compound. LCMS: (M+H)=169; tR=0.74 min (LC-MS 2); 1H-NMR (CDCl3, 400 MHz) δ (ppm) 7.15 (s, 1H), 4.18 (q, 2H), 3.20 (bs, 6H), 1.26 (t, 3H).

reactant | ethyl-2-isocyanoacetate | 91 mmol, 10.3 g | C(C)OC(C[N+]#[C-])=O | C5H7NO2
reactant | 1,1-dimethoxy-N,N-dimethyl methanamine | 200 mmol, 26.6 ml | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (Z)-3-Dimethylamino-2-isocyano acrylic acid ethyl ester | 64.7 mmol, 11 g, 71.1% yield | C(C)OC(/C(=C/N(C)C)/[N+]#[C-])=O | C8H12N2O2
